US04915480
A mixture of 118 mg of propyl p-[trans-4-(trans-1-pentenyl)cyclohexyl]phenylcarbamate and 12.5 ml of a 10% solution of potassium hydroxide in diethylene glycol/water (vol. 4:1) was boiled at 120° C. for 1 hour, then cooled to room temperature and partitioned between 70 ml of diethyl ether and 70 ml of water. The aqueous phase was back-extracted twice with 70 ml of diethyl ether each time. The organic phases were washed twice with 50 ml of water each time, dried over magnesium sulphate and concentrated. Low-pressure chromatography (0.5 bar) of the brown, crystalline residue (150 mg) on 35 g of silica gel with ethyl acetate/petroleum ether (vol. 15:85) gave 76.6 mg (88%) of p-[trans-4-(trans-1-pentenyl)cyclohexyl]aniline as slightly yellowish crystals; purity 97%; Rf-value 0.24 (ethyl acetate/petroleum ether, vol. 1:5).

reactant | propyl p-[trans-4-(trans-1-pentenyl)cyclohexyl]phenylcarbamate | 118 mg | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)NC(OCCC)=O | C21H31NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol water | C(COCCO)O.O
product | p-[trans-4-(trans-1-pentenyl)cyclohexyl]aniline | 76.6 mg, 88% | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C1=CC=C(N)C=C1 | C17H25N
